US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1 -dioxide (6.74 g), triethylamine (3.4 cc) and 4-(4-methoxyphenyl)-1,2,3,6-tetrahydropyridine (4.5 g ) in dimethylformamide (70 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is continued for 12 hours at this temperature. After purification by flash-chromatography on silica gel, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling acetonitrile (60 cc), 2{3-[4-(4-methoxyphenyl)-1,2,3,6-tetrahydro -1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (2 g) is obtained, m.p. 178° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1 -dioxide | 6.74 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 3.4 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-methoxyphenyl)-1,2,3,6-tetrahydropyridine | 4.5 g | COC1=CC=C(C=C1)C=1CCNCC1 | C12H15NO
solvent | dimethylformamide | 70 cc | CN(C=O)C | C3H7NO
product | 2{3-[4-(4-methoxyphenyl)-1,2,3,6-tetrahydro -1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 2 g | COC1=CC=C(C=C1)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C25H26N2O3S
